US07262203B2
Preparation of N1-methyl-4-nitrobenzene-1,2-diamine
In a 350 mL pressure flask, 2-fluoro-5-nitroaniline (10 g, 0.064 mol), methylamine as a 2M solution in THF (65 mL, 0.13 mol) and potassium carbonate (18 g, 0.13 mol) in 1-Methyl-2-pyrrolidinone (80 mL) were combined. The flask was sealed and heated to 120 degrees C. overnight. The reaction was monitored by TLC. When reaction was judged to be complete based upon consumption of 2-fluoro-5-nitroaniline, it was cooled to room temperature and poured into 2-3 times the total reaction volume of water. When a precipitate was formed, it was filtered and dried. The product was carried on without purification. 1H NMR (300 MHz, d6DMSO) δ 7.54 (dd, J=8.79, 2.64 Hz, 1H), 7.39 (d, J≦2.64 Hz, 1H), 6.41 (d, J=8.79 Hz, 1H), 6.11 (d, J=4.39 Hz, 1H), 5.07 (s, 2H), 2.83 (d, 1H), 4.83 Hz, 3H).

reactant | 2-fluoro-5-nitroaniline | 0.064 mol, 10 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | methylamine | CN | CH5N
reactant | THF | 0.13 mol, 65 mL | C1CCOC1 | C4H8O
reactant | potassium carbonate | 0.13 mol, 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-Methyl-2-pyrrolidinone | 80 mL | CN1C(CCC1)=O | C5H9NO
product | N1-methyl-4-nitrobenzene-1,2-diamine | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
